US04302398
2.0 g of rac-3'-(1,1-ethylenedioxyethyl)-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] in 20 ml of tetrahydrofuran were added over a period of 10 minutes to a suspension of 6.4 g of mercuric oxide and 6.4 g of mercuric chloride in 200 ml of methanol and 18 ml of water. The resulting suspension was stirred at room temperature for 1.25 hours and then ca 100 ml of solvent were removed by evaporation under reduced pressure. 300 ml of dichloromethane were added and the suspension obtained was filtered to remove insoluble mercury salts. The filtrate was washed with three 200 ml portions of water, dried over magnesium sulphate and evaporated to give a solid residue. Trituration with diethyl ether gave 1.42 g (89%) of rac-3-(1,1-ethylenedioxyethyl)-1,2,3,4-tetrahydro-3-hydroxy-5,8-dimethoxy-1-oxo-naphthalene in the form of an off-white powder of melting point 177.5°-178° C.

reactant | rac-3'-(1,1-ethylenedioxyethyl)-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] | 2.0 g | C1OC(C)(OC1)C1(CC2(C3=C(C=CC(=C3C1)OC)OC)SCCS2)O | C18H24O5S2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 18 ml | O | H2O
product | rac-3-(1,1-ethylenedioxyethyl)-1,2,3,4-tetrahydro-3-hydroxy-5,8-dimethoxy-1-oxo-naphthalene | 1.42 g, 89% | C1OC(C)(OC1)C1(CC(C2=C(C=CC(=C2C1)OC)OC)=O)O | C16H20O6
